US06310213B1
(+)(3R,4R)-4-Benzyl-1-[2-(4-hydroxy-benzenesulfonyl)-ethyl]-piperidin-3-ol
The title compound was prepared from 4-(2-chloro-ethanesulfonyl)-phenol and (3R,4R)-4-benzyl-piperidine-3-ol in 50% yield as a white solid.

reactant | 4-(2-chloro-ethanesulfonyl)-phenol | ClCCS(=O)(=O)C1=CC=C(C=C1)O | C8H9ClO3S
reactant | (3R,4R)-4-benzyl-piperidine-3-ol | C(C1=CC=CC=C1)[C@H]1[C@H](CNCC1)O | C12H17NO
product | (+)(3R,4R)-4-Benzyl-1-[2-(4-hydroxy-benzenesulfonyl)-ethyl]-piperidin-3-ol | 50% yield | C(C1=CC=CC=C1)[C@H]1[C@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)O)O | C20H25NO4S
